US07354942B2
To a solution of methyl 2-amino-2-benzyl-3,3-difluoropropanoate (0.11 g, 0.48 mmol) (for synthesis see: Bey et al, J. Org. Chem. 1979, 44, 2732-2742) in 6.8 mL THF was added lithium borohydride (2M in THF, 1.45 mL, 2.9 mmol) dropwise. The reaction was heated at reflux temperature for 2 h, quenched with MeOH and acetone and concentrated. Hydrochloric acid (1M, 14.5 mL, 14.5 mmol) was added, the mixture was heated to 45° C. for 1.5 h and concentrated. The reaction was made basic with saturated NaHCO3 and extracted with CHCl3. Drying and solvent evaporation gave 2-amino-2-(difluoromethyl)-3-phenylpropan-1-ol. 1H NMR (400 MHz, CDCl3) δ 7.35-7.24 (m, 5H), 5.67 (t, J=56.5 Hz, 1H), 3.56 (A of AB, d, J=11.0 Hz, 1H), 3.46 (B of AB, d, J=11.0 Hz, 1H), 2.89 (A of AB, d, J=13.6 Hz, 1H), 2.84 (B of AB, d, J=13.6, 1H).

reactant | methyl 2-amino-2-benzyl-3,3-difluoropropanoate | 0.48 mmol, 0.11 g | NC(C(=O)OC)(C(F)F)CC1=CC=CC=C1 | C11H13F2NO2
reactant | lithium borohydride | 2.9 mmol, 2M, 1.45 mL | [BH4-].[Li+]
reactant | Hydrochloric acid | 14.5 mmol, 1M, 14.5 mL | Cl | ClH
solvent | THF | 6.8 mL | C1CCOC1 | C4H8O
product | 2-amino-2-(difluoromethyl)-3-phenylpropan-1-ol | NC(CO)(CC1=CC=CC=C1)C(F)F | C10H13F2NO
